Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
I hurt my feet walking
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
In brief, this is a ___ yo man with
history of bipolar disorder presenting with "bizarre behavior" 
as
per his parents.  In the ED he was initially quite agitated and
received 10 mg Haldol, and 4 mg Ativan before psychiatry was
consulted, which somewhat limited initial consult exam.  We 
spoke
with his mother last night, who reported at 7:15 AM yesterday
rang their doorbell and had walked from ___ to ___
barefoot, only wearing jeans without a shirt in the cold
(previously was not allowed in their house for previous acts of
aggression like breaking down their door and making aggressive
demands of parents, for more information please see my 
collateral
note from early this morning).  He said his car wouldn't start
and he needed a ride.  This is within the context of having been
at ___ for about 1.5 wks (___), previously picked up
by ___ police darting in and out of traffic (as per 
___
records, was discharged on zyprexa 10 mg PO qhs).  
     The patient states he does not have any past psychiatric
problems, and is extremely guarded on our interview initially. 
He states he is here because his feet are busted up walking from
___ to ___ and his parents wanted him to come here. 
He states he is "pissed off" as he is laughing, states is angry
about being here while laughing.  His concentration is low,
states his energy is low while making sometimes quick, energetic
and jerky movements when reaching for things in the exam room. 
He states he has racing thoughts currently. He denies AVH, 
states
people are usually coming after him, then laughs and states he 
is
kidding, but that he is not "truly" paranoid at this moment.  He
states he had been "truly" paranoid before, however.  He denies
SI, states he often develops thoughts of hurting other people
when he gets angry, but toward no one in particular right now. 
He does not feel like going further with our interview, and 
after
initial discussion assertedly repeats that he needs to use the
restroom and that we need to finish up.  
     His mother stated when he gets more aggressive it is
difficult for her to determine if it is his mental illness
getting worse, his severe past problems with drugs (for example
with previous crystal meth use) or whether he is trying to
"manipulate" them to get more financial support.  His mother
separately notes when his mood changes he often becomes 
extremely
paranoid, changing locks multiple times in previous apartment
without known reason.
     He appears to have stopped taking zyprexa a week ago after
___ discharge.  He denies wanting to hurt or kill himself, 
or
wanting to hurt or kill anyone else while in hospital, contracts
for safety while here currently.
 
Past Medical History:
No past medical history

Past Psychiatric History
Diagnoses: denies, later reportedly history of bipolar disorder,
in ___ record they diagnosed him with unspecified psychotic
disorder
Hospitalizations-2 wks ago presented to ___ ED, 
hospitalized ___ at ___.
Current treaters-was scheduled to see Dr. ___ and Dr.
___ at ___, states he went once 
but
did not follow through, he did not remember any of these names,
taken from ___ d/c summary.
Treatments-says he took Risperdal before which made him too
tired, took zyprexa until about a week ago then stopped 
Self-injury-cutting in high school as per mother, denies SAs
Harm to others-he denies
Access to weapons-denies
 
Social History:
___
Family History:
adopted
 
Physical Exam:
VS:  T 97.5, P 64, BP 106/76, RR 16, O2 Sat 99% RA   
Gen: NAD, sitting comfortably.
HEENT: PERRLA, EOMI, MMM, no carotid bruits, no JVD
Ht: RRR, no MRG
Lungs: CTAB, symmetric chest wall motion, no increased work of
breathing
Abd: Soft, nontender, nondistended, normoactive bowel sounds
Ext: Dirt all over his feet with brownish-greenish blisters of
his plantar foot pads bilaterally, leg tenderness, edema or
erythema bilaterally, 2+ bilateral ___ pulses
Skin-right forearm tattoo
Neuro-
Cranial Nerves-CN II-XII intact.  
Motor:
Moving all extremities, ___ proximal and distal bilateral arm 
and
leg strength
2+ biceps and patellar reflexes bilaterally

Sensation: Normal light touch sensation of proximal and distal
extremities bilaterally
Coordination:
     Finger-nose-finger: intact
     Fine finger tapping: intact
     Heel to shin: intact
Gait/Romberg: Normal
Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    cranial nerves: CN II-XII intact
    abnormal movements: No tremors, tics or dyskinesias, no
psychomotor agitation or retardation.
    frontal release: None 
 
Pertinent Results:
___ 11:24AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:24AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 11:24AM URINE  RBC-3* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 11:24AM URINE  HYALINE-1*
___ 11:24AM URINE  MUCOUS-RARE
___ 11:00AM URINE  HOURS-RANDOM
___ 11:00AM URINE  HOURS-RANDOM
___ 11:00AM URINE  HOURS-RANDOM
___ 11:00AM URINE  UHOLD-HOLD
___ 11:00AM URINE  GR HOLD-HOLD
___ 11:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS oxycodn-NEG mthdone-NEG
___ 04:10PM   GLUCOSE-102* UREA N-19 CREAT-0.8 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-105 TOTAL CO2-22 ANION GAP-16
___ 04:10PM   estGFR-Using this
___ 04:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:10PM   WBC-14.5*# RBC-4.05* HGB-12.6* HCT-37.0* 
MCV-91 MCH-31.1 MCHC-34.1 RDW-13.3 RDWSD-44.5
___ 04:10PM   NEUTS-74.3* LYMPHS-15.3* MONOS-8.1 EOS-1.5 
BASOS-0.3 IM ___ AbsNeut-10.74* AbsLymp-2.21 AbsMono-1.17* 
AbsEos-0.22 AbsBaso-0.05
___ 04:10PM   PLT COUNT-295
 
Brief Hospital Course:
PSYCHIATRIC
#)On admission, Mr. ___ signed a CV and was reluctantly 
agreeable to treatment. He was irritable, but cooperative.

During hospitalization, he was restarted on zyprexa 10mg which 
was eventually increased to zyprexa 15mg. He was stabilized on 
this dose. He was provided milieu  psychotherapy and 
participated in group therapy as well. His affect improved 
noticeably, with heightened cooperation and openness in 
interactions. Any suspiciousness resolved, and did his physical 
agitation and POS. On discharge, mood was good, MSE was 
pertinent for pleasant affect, no irritability and denied 
suicidal ideation.

Safety: The patient remained in good behavioral control 
throughout this hospitalization and did not require physical or 
chemical restraint. The patient remained on 15 minute checks, 
which is our lowest acuity level of checks.

GENERAL MEDICAL CONDITIONS
#) Blistered feet
- feet were washed and triple antibiotic ointment was applied to 
all open surfaces
-Recommend f/u with outpt providers as clinically indicated

PSYCHOSOCIAL
#) MILIEU/GROUPS
The patient was highly animated, euthymic, and participatory in 
the milieu. The patient was very visible on the unit and 
frequently had conversations with his/her peers. He attended 
some groups. He never engaged in any unsafe behaviors. The pt 
ate all meals in the milieu, slept well, and cooperated with 
unit rules.

#) FAMILY CONTACTS
Family meeting was held with the patient's mother and father. 
Family therapy was provided regarding patient's illness and a 
supportive dynamic. They understand and are in agreement with 
the current treatment and discharge plan.

#) COLLATERAL
We requested records from ___.
We spoke with the patient's therapist and psychiatrist, who both 
agreed to follow patient.

LEGAL STATUS
The pt was initially on a CV at admission. He then signed a 
three-day, which he retracted one day later. He then remained on 
a CV. 

RISK ASSESSMENT:
This patient is not suicidal/homicidal, is feeling well and is 
animated, euthymic, and participatory in the milieu, all of 
which indicate a low immediate risk of harm.
Despite recent episodes of agitation current risk of harm to 
others is low given patient is stable on medication and denies 
any aggressive thoughts towards anyone. 
Static risk factors include:
-chronic and severe mental illness, male sex, 
impulsive/aggressive tendencies
Modifiable risk factors include:
-active polysubstance misuse, acute major mood episode, limited 
outpatient/social support. We modified this risk by uptitrating 
the patient's olanzapine.
Protective factors include:
-Protective factors include current outpatient 
providers/treatment, conflict resolution and handling problems 
in a non-violent way. Current risk is low/moderate for 
intentional self-harm given that pt denies suicidal ideation, 
intent and plan, is accepting of treatment, is currently sober 
and is future oriented with plans to get a job and ultimately go 
back to school. 

INFORMED CONSENT
I discussed the indications for, intended benefits of, and 
possible side effects and risks of this medication, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The 
patient appeared able to understand and consented to begin the 
medication.

PROGNOSIS:
Good due to the fact that patient has stable housing, he is 
taking his medication and is future oriented.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. OLANZapine 15 mg PO QHS 
RX *olanzapine [Zyprexa] 15 mg 1 tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar Disorder, manic/mixed, with possible psychotic features 
-- all now resolved.

 
Discharge Condition:
Good - affect is benign and euthymic; thoughts are clear and 
coherant, and pt denies any delusions or SI/HI.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed 
- take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

 

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
 
Followup Instructions:
___